US05798316
A solution of 2.10 grams (0.0073 mole) of 3-(4-methoxyphenyl)-6-trifluoromethyl-2,4(1H,3H)-pyrimidinedione (recovered from previous reactions) and 1.21 grams (0.0088 mole) of potassium carbonate in 30 mL of tetrahydrofuran was stirred for five minutes at ambient temperature and then 1.58 grams (0.0073 mole) of 1-aminooxysulfonyl-2,4,6-trimethylbenzene (prepared in a manner known by one skilled in the art) was added. Upon completion of addition, the reaction mixture was stirred at ambient temperature for three hours. At the conclusion of this period, the reaction mixture was diluted with water, and the resulting mixture was extracted with two 50 mL portions of ethyl acetate. The combined ethyl acetate extracts were dried with magnesium sulfate and filtered. The filtrate was concentrated under reduced pressure, yielding 0.9 gram of crude product. This 0.90 grams of crude product was combined with 0.92 grams of crude product prepared by a similar route to yield a total of 1.82 grams of crude product. The 1.82 grams of crude product was purified by flash chromatography, yielding 1.5 grams of 1-amino-3-(4-methoxyphenyl)-6-trifluoromethyl-2,4(1H,3H)-pyrimidinedione, m.p. 176°-178° C. The NMR spectrum was consistent with the proposed structure.

reactant | 3-(4-methoxyphenyl)-6-trifluoromethyl-2,4(1H,3H)-pyrimidinedione | 0.0073 mole, 2.10 grams | COC1=CC=C(C=C1)N1C(NC(=CC1=O)C(F)(F)F)=O | C12H9F3N2O3
reactant | potassium carbonate | 0.0088 mole, 1.21 grams | C([O-])([O-])=O.[K+].[K+]
reactant | 1-aminooxysulfonyl-2,4,6-trimethylbenzene | 0.0073 mole, 1.58 grams | NOS(=O)(=O)C1=C(C=C(C=C1C)C)C | C9H13NO3S
solvent | tetrahydrofuran | 30 mL | O1CCCC1 | C4H8O
solvent | water | O | H2O
product | 1-amino-3-(4-methoxyphenyl)-6-trifluoromethyl-2,4(1H,3H)-pyrimidinedione | 1.5 grams | NN1C(N(C(C=C1C(F)(F)F)=O)C1=CC=C(C=C1)OC)=O | C12H10F3N3O3
